ID_VD
*SPICE Netlist generated by Advanced Sim server on 21/01/2009 10:15:43 AM

*Schematic Netlist:
D1 VD 0 DIODE
Vd VD 0 500m

.SAVE 0 VD Vd#branch @Vd[z] @D1[id] @D1[p] @Vd[p]

*PLOT DC -1 1 A=@D1[id]

*Selected Circuit Analyses:
.DC Vd 0 2 0.001

*Models and Subcircuits:
.MODEL DIODE D()

.END
