IC_VCE
*SPICE Netlist generated by Advanced Sim server on 15/12/2008 2:58:47 PM

*Schematic Netlist:
Ib 0 VB 1mA
Q1 VC VB 0 2N3904
Vce VC 0 1

.SAVE 0 VB VC Ib[v] Vce#branch @Vce[z] @Q1[ib] @Q1[ic] @Q1[ie] @Ib[p] @Q1[p]
.SAVE @Vce[p]

*PLOT DC -1 1 A=@Q1[ic]

*Selected Circuit Analyses:
.DC Vce 0 5 0.01 Ib 0.002 0.02 0.004

*Models and Subcircuits:
.MODEL 2N3904 NPN(IS=1.4E-14 BF=300 VAF=100 IKF=0.025 ISE=3E-13 BR=7.5 RC=2.4
+ CJE=4.5E-12 TF=4E-10 CJC=3.5E-12 TR=2.1E-8 XTB=1.5 KF=9E-16 )

.END
